US09169254B2
4-{2-[2-(3-But-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid, (3-azido-propyl)-methyl-amine hydrochloride (15.3 mg, 0.101 mmol) and DIPEA (0.044 ml, 0.255 mmol) were dissolved in DMF (0.400 ml). HATU (0.038 mg, 0.101 mmol) was added and the mixture was stirred at room temperature for one hour. The reaction solution was diluted with ethyl acetate, and the organic layer was then washed with a 1 M aqueous hydrochloric acid solution, an aqueous sodium bicarbonate solution and saline. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography (dichloromethane-ethyl acetate) to give N-(3-azido-propyl)-4-{2-[2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3,N-dimethyl-benzamide as a colorless oily substance.

reactant | 4-{2-[2-(3-But-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid | C(CC#C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C(=O)O)C=C2)C | C28H28F3N3O6S
reactant | (3-azido-propyl)-methyl-amine hydrochloride | 0.101 mmol, 15.3 mg | Cl.N(=[N+]=[N-])CCCNC
reactant | DIPEA | 0.255 mmol, 0.044 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.101 mmol, 0.038 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.400 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-azido-propyl)-4-{2-[2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3,N-dimethyl-benzamide | N(=[N+]=[N-])CCCN(C(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCCC#C)=O)CC1)C)=O)C | C32H36F3N7O5S
